US07994203B2
Step 1: 2-[3-(2,4-Dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-yloxy]-pentanoic acid ethyl ester:
A solution of 3-(2,4-dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-ol (Intermediate IC) (100 mg, 0.337 mmol), cesium carbonate (132 mg, 0.404 mmol) and ethyl 2-bromovalerate (0.069 ml, 0.404 mmol) in DMF (3.365 ml) is stirred at 45° C. for 2 hours. The reaction mixture is poured into sat NaHCO3 (50 ml) and the product is extracted with EtOAc (2×50 ml) (brine is used to aid the phase separation). The combined organic extracts are washed with brine, dried over MgSO4 and concentrated in vacuo. Purification of the resultant oil by ISCO combiflash chromatography, eluting with 0 to 100% (iso-hexane/EtOAc) on a 12 g SiO2-column affords the title compound as a solid; MS: m/z 425.21 [M+H]+.

reactant | 3-(2,4-dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-ol | 0.337 mmol, 100 mg | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=C(C(=N2)C)O | C13H10Cl2N2O2
reactant | cesium carbonate | 0.404 mmol, 132 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl 2-bromovalerate | 0.404 mmol, 0.069 ml | BrC(C(=O)OCC)CCC | C7H13BrO2
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | DMF | 3.365 ml | CN(C)C=O | C3H7NO
product | 2-[3-(2,4-Dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-yloxy]-pentanoic acid ethyl ester | C(C)OC(C(CCC)OC=1C(=NN2C1OC(=C2C2=C(C=C(C=C2)Cl)Cl)C)C)=O | C20H22Cl2N2O4
